US08431574B2
Step B. Preparation of 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide
To a solution of 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide (0.048 g, 0.13 mmol) in ethanol (5 mL) was added aqueous 2 M HCl (0.332 mL, 0.664 mmol). The reaction mixture was stirred for 16 hours at room temperature. The pH of the reaction mixture was adjusted with 1 M NaOH until 7. The reaction mixture was diluted with EtOAc and H2O. The organic layer was separated and washed with saturated NaCl, dried (Na2SO4), and concentrated under reduced pressure to yield 0.044 g (100%) pure desired product as a pale yellow foamy solid. MS ESI (+) m/z 336 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 10.3 (s, 1H), 8.46 (s, 1H), 7.38 (d, 1H), 6.96-6.87 (m, 2H), 6.76 (t, 1H), 6.18 (d, 1H), 4.04 (m, 2H), 3.93 (br s, 1H), 3.75 (br s, 2H), 3.20 (s, 3H), 2.33 (s, 3H).

reactant | 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide | 0.13 mmol, 0.048 g | C(=C)OCCONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)C)F | C18H20FN3O4
reactant | HCl | 0.664 mmol, 2 M, 0.332 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide | 0.044 g, 100% | OCCONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)C)F | C16H18FN3O4
